US04971982
3 g of 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carbonitrile and 420 mg of sodium tungstate were heated in 30 ml of methanol and 30 ml of acetonitrile at 50° C. and 12 ml of 30% (w/v) hydrogen peroxide were added. After heating overnight the mixture was evaporated and the residue was taken up in dichloromethane and water. The organic phase was separated, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:3 and 1:2) for the elution to give 440 mg of 1a,7b-dihydro-2,2-dimethyl-7b-(2-pyridyl)-2H-oxireno[c][1]benzopyran-6-carbonitrile which was used without further purification.

reactant | 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carbonitrile | 3 g | CC1(OC2=C(C(=C1)C1=NC=CC=C1)C=C(C=C2)C#N)C | C17H14N2O
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
reactant | hydrogen peroxide | OO | H2O2
solvent | methanol | 30 ml | CO | CH4O
catalyst | sodium tungstate | 420 mg | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 1a,7b-dihydro-2,2-dimethyl-7b-(2-pyridyl)-2H-oxireno[c][1]benzopyran-6-carbonitrile | 440 mg | CC1(OC2=C(C3(C1O3)C3=NC=CC=C3)C=C(C=C2)C#N)C | C17H14N2O2
